US07585885B2
[(R)-5-[(1R,2S)-2-Acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-(3Z)-ylidene]-acetic acid methyl ester hydrochloride
Add HCl 4M in dioxane (0.861 mL, 3.4 mmol) to (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-[1-methoxycarbonyl-meth-(Z)-ylidene]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.024 g, 0.046 mmol). Stir overnight. Concentrate under reduced pressure to provide the title compound (0.021 g, 93%).

reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 3.4 mmol, 0.861 mL | O1CCOCC1 | C4H8O2
reactant | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-[1-methoxycarbonyl-meth-(Z)-ylidene]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.046 mmol, 0.024 g | C(C)(C)(C)OC(=O)N1[C@H](C/C(/C1)=C/C(=O)OC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C26H34F2N2O6
product | [(R)-5-[(1R,2S)-2-Acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-(3Z)-ylidene]-acetic acid methyl ester hydrochloride | 0.021 g, 93% | Cl.COC(\C=C\1/CN[C@H](C1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)=O | InChI=1S/C18H22F2N2O4.ClH/c1-10(23)22-16(5-11-3-13(19)8-14(20)4-11)18(25)15-6-12(9-21-15)7-17(24)26-2;/h3-4,7-8,15-16,18,21,25H,5-6,9H2,1-2H3,(H,22,23);1H/b12-7-;/t15-,16+,18-;/m1./s1
